US05240938
Step A: Preparation of 1-(4-benzyloxyphenyl)-methyl-2-butylbenzimidazole
A suspension of 1.50 g (8.62 mmol) of 2-butylbenzimidazole (described in European Patent Application #400,835, May 12, 1990) and NaH (272 mg, 1.05 eq) in DMF (20 mL) was stirred 25 minutes. Next, 4-benzyloxybenzyl chloride (2.10 g, 1.05 eq) was added to the reaction mixture. After stirring overnight, the reaction mixture was concentrated in vacuo and the residue was chromatographed on a medium pressure liquid chromatograph eluted with 30% ethyl acetate/hexane to yield 3.08 g (96%) of the title compound.

reactant | 2-butylbenzimidazole | 8.62 mmol, 1.50 g | C(CCC)C=1NC2=C(N1)C=CC=C2 | C11H14N2
reactant | NaH | 272 mg, 1.05 eq | [H-].[Na+]
reactant | 4-benzyloxybenzyl chloride | 2.10 g, 1.05 eq | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-benzyloxyphenyl)-methyl-2-butylbenzimidazole | 3.08 g, 96% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2C)CCCC | C25H26N2O
